US08835634B2
5.4 g (39.6 mM) of N-ethylbenzene-1,2-diamine and 2.76 ml (39.6 mM) of 2-oxopropanoic acid in 200 ml of methanol were refluxed for 8 h. The solvent was removed under vacuum. The residue was further purified by silica gel column chromatography, using dichloromethane, followed by dichloromethane/dimethylketone (95/5) as eluant to give 4.2 g of 1-ethyl-3-methyl-quinoxalin-2(1H)-one as a yellow solid. Yield: 56.7%.

reactant | N-ethylbenzene-1,2-diamine | 39.6 mM, 5.4 g | C(C)NC=1C(=CC=CC1)N | C8H12N2
reactant | 2-oxopropanoic acid | 39.6 mM, 2.76 ml | O=C(C(=O)O)C | C3H4O3
solvent | methanol | 200 ml | CO | CH4O
product | 1-ethyl-3-methyl-quinoxalin-2(1H)-one | 4.2 g, Yield: 56.7% | C(C)N1C(C(=NC2=CC=CC=C12)C)=O | C11H12N2O
